US05679791
Preparation of Isopropyl 3-[2-chloro-4-fluoro-5-(3-fluorophthalimido)phenyl]tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate
A solution of isopropyl 3-(5-amino-2-chloro-4-fluorophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate (1.0 g, 2.6 mmol) and 3-fluorophthalic anhydride (0.51 g, 3.1 mmol) in acetic acid is refluxed for 6 hours, stirred at room temperature for several days and poured onto ice. The resultant aqueous mixture is filtered to obtain a solid. The solid is dried and chromatographed (silica gel/2.5% ether in methylene chloride solution) to give the title product as a yellow foam, mp 119°-125° C.

reactant | isopropyl 3-(5-amino-2-chloro-4-fluorophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate | 2.6 mmol, 1.0 g | NC=1C(=CC(=C(C1)N1C(N(C(N(C1=O)C)=O)CC(=O)OC(C)C)=O)Cl)F | C15H16ClFN4O5
reactant | 3-fluorophthalic anhydride | 3.1 mmol, 0.51 g | FC1=C2C(C(=O)OC2=O)=CC=C1 | C8H3FO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Isopropyl 3-[2-chloro-4-fluoro-5-(3-fluorophthalimido)phenyl]tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate | ClC1=C(C=C(C(=C1)F)N1C(C=2C(C1=O)=C(C=CC2)F)=O)N2C(N(C(N(C2=O)C)=O)CC(=O)OC(C)C)=O | C23H17ClF2N4O7
